US07612114B2
Synthesized from 5-methoxy-2-naphthalen-2-ylamine and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 114, [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl](5-methoxy-2-naphthalen-2-ylphenyl)amine (290 mg) was used according to an analogous synthetic method to Example 36 to provide ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl](5-methoxy-2-naphthalen-2-ylphenyl)amine (252 mg). This compound (250 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (222 mg).

reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl](5-methoxy-2-naphthalen-2-ylphenyl)amine | 290 mg | FC=1C=C(CNC2=C(C=CC(=C2)OC)C2=CC3=CC=CC=C3C=C2)C=CC1OCCN1CCCCC1 | C31H33FN2O2
product | ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl](5-methoxy-2-naphthalen-2-ylphenyl)amine | 252 mg | C(C)N(C1=C(C=CC(=C1)OC)C1=CC2=CC=CC=C2C=C1)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C33H37FN2O2
